US07375120B2
Preparation 5. 2-(Benzyloxyamino-methyl)heptanoic acid
To 1-benzyloxy-3-pentylazetin-2-one (1.82 g, 7.37 mmol) in a mixture of THF—H2O-MeOH (100 mL, 3:1:1 v/v) was added LiOH monohydrate (3.60 g, 73.68 mmol). After stirring at room temperature overnight, water (50 mL) was added to the mixture. The solution was acidified to pH 6 with 3N HCl and extracted with EtOAc (100 mL×2). The combined organic layers were dried over MgSO4, and evaporated under vacuum to yield the title compound (1.60 g, 82%). 1H NMR (400 MHz, CHCl3) δ 9.80 (br s, 1H), 7.37 (m, 5H), 4.75 (m, 2H), 3.14 (m, 2H), 2.74 (m, 1H), 170 (m, 1H), 1.53 (m, 1H), 1.38–1.25 (m, 6H), 0.91 (t, J=6.8 Hz, 3H). MH+ 266.

reactant | 1-benzyloxy-3-pentylazetin-2-one | 7.37 mmol, 1.82 g | C(C1=CC=CC=C1)ON1C(C(=C1)CCCCC)=O | C15H19NO2
reactant | water | 50 mL | O | H2O
reactant | HCl | 3N | Cl | ClH
solvent | THF H2O MeOH | 100 mL | C1CCOC1.O.CO
product | 2-(Benzyloxyamino-methyl)heptanoic acid | 1.60 g, 82% | C(C1=CC=CC=C1)ONCC(C(=O)O)CCCCC | C15H23NO3
